US04921852
To a suspension of sodium hydride (62.8% dispersion in mineral oil, 285 mg) in N,N-dimethylformamide (30 ml) was added thioacetic S-acid (0.54 ml) at 0°-5° C. under an atmosphere of nitrogen. After evolution of hydrogen ceased, the mixture was stirred at room temperature, and (2S,4R)-2-(2-aminothiazol-4-yl)-4-methanesulfonyloxy1-(4-nitrobenzyloxycarbonyl)pyrrolidine (1.6 g) in N,N-dimethylformamide (20 ml) was added thereto. The mixture was stirred at 90° C. for 5 hours and poured into a mixture of ethyl acetate (100 ml) and water (100 ml). The aqueous layer was separated and extracted twice with ethyl acetate (50 ml). The organic layers were combined, washed with brine, dried over magnesium sulfate and concentrated under reduced pressure to give a syrup. The syrup was subjected to a column chromatography on silica gel (60 g) eluting with a mixture of acetone and dichloromethane (1:5 V/V) to give (2S,4S)-4-acetylthio-2-(2-aminothiazol-4-yl)-1 -(4-nitrobenzyloxycarbonyl)pyrrolidine (1.26 g).

reactant | sodium hydride | 285 mg | [H-].[Na+]
reactant | thioacetic S-acid | 0.54 ml | C(C)(=O)S | C2H4OS
reactant | hydrogen | [H][H] | H2
reactant | (2S,4R)-2-(2-aminothiazol-4-yl)-4-methanesulfonyloxy1-(4-nitrobenzyloxycarbonyl)pyrrolidine | 1.6 g | NC=1SC=C(N1)[C@H]1N(C[C@@H](C1)OS(=O)(=O)C)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C16H18N4O7S2
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | water | 100 ml | O | H2O
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | (2S,4S)-4-acetylthio-2-(2-aminothiazol-4-yl)-1 -(4-nitrobenzyloxycarbonyl)pyrrolidine | 1.26 g | C(C)(=O)S[C@H]1C[C@H](N(C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C=1N=C(SC1)N | C17H18N4O5S2
